US04767779
To a stirred solution of 0.75 g (0.0034 mole) 4-(4-chlorophenoxy)aniline in 25 mL of toluene was added dropwise a solution of 0.43 mL (0.0036 mole) trichloromethylchloroformate in 20 mL of toluene. After complete addition, the mixture was heated at 85° C. for three hours. This mixture was cooled to room temperature and the solvent evaporated under reduced pressure to leave a residue. The residue was dissolved in 25 mL of diethyl ether. This solution was added dropwise to a stirred slurry of 1.0 g (0.0034 mole) of 3-(4-chlorophenyl)-4-phenylpyrazoline in diethyl ether. Three drops of triethylamine were added and the mixture was stirred at room temperature for two days. The solvent was evaporated from the mixture to yield 0.92 g of 3-(4-chlorophenyl)-N-[4-(4-chlorophenoxy)phenyl]-4-phenylpyrazoline-1-carboxamide (mp 158°-161° C.).

reactant | 4-(4-chlorophenoxy)aniline | 0.0034 mole, 0.75 g | ClC1=CC=C(OC2=CC=C(N)C=C2)C=C1 | C12H10ClNO
reactant | trichloromethylchloroformate | 0.0036 mole, 0.43 mL | ClC(Cl)(Cl)OC(=O)Cl | C2Cl4O2
reactant | 3-(4-chlorophenyl)-4-phenylpyrazoline | 0.0034 mole, 1.0 g | ClC1=CC=C(C=C1)C=1NNCC1C1=CC=CC=C1 | C15H13ClN2
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 25 mL | C(C)OCC | C4H10O
catalyst | triethylamine | Three drops | C(C)N(CC)CC | C6H15N
product | 3-(4-chlorophenyl)-N-[4-(4-chlorophenoxy)phenyl]-4-phenylpyrazoline-1-carboxamide | 0.92 g | ClC1=CC=C(C=C1)C=1NN(CC1C1=CC=CC=C1)C(=O)NC1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C28H21Cl2N3O2
